US05231143
A butadiene/2-methoxyethyl acrylate copolymer was synthesized as per Example 6, starting with 40 parts of butadiene and 60 parts of 2-methyoxyethyl acrylate. The isolated rubber exhibited a glass transition temperature of -60° C. and a Mooney viscosity of 37 (ML[4,100° C.]).

reactant | butadiene | C=CC=C | C4H6
reactant | 2-methyoxyethyl acrylate | C(C=C)(=O)OCCOC | C6H10O3
product | butadiene 2-methoxyethyl acrylate | C=CC=C.C(C=C)(=O)OCCOC | InChI=1S/C6H10O3.C4H6/c1-3-6(7)9-5-4-8-2;1-3-4-2/h3H,1,4-5H2,2H3;3-4H,1-2H2
